US05998436
Synthesis of 3,5-difluoro-2-isopropylamino-6-(p-methoxybenzylamino)pyridine
To 4.1 g of N-methylpyrrolidone were added all amount of the 2,3,5-trifluoro-6-isopropylaminopyridine as described above together with 3.1 g of p-methoxybenzylamine, and the mixture was stirred at 150° C. for 15 hours and allowed to cool. After adding 50 ml of the mixed solution of benzene and n-hexane (1:1, v/v), the solution was washed twice with 400 ml of distilled water. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain 3.9 g of the title compound as a brown crude oil.

reactant | N-methylpyrrolidone | 4.1 g | CN1C(CCC1)=O | C5H9NO
reactant | 2,3,5-trifluoro-6-isopropylaminopyridine | FC1=NC(=C(C=C1F)F)NC(C)C | C8H9F3N2
reactant | p-methoxybenzylamine | 3.1 g | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | n-hexane | CCCCCC | C6H14
product | 3,5-difluoro-2-isopropylamino-6-(p-methoxybenzylamino)pyridine | 3.9 g | FC=1C(=NC(=C(C1)F)NCC1=CC=C(C=C1)OC)NC(C)C | C16H19F2N3O
